* C:\Users\User\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Komparator\Komparator system.asc
R3 0 N012 692.8999
R2 N012 N005 10K
R6 N002 N005 10K
R7 0 N002 7341.842397
V1 N015 0 2.5
V2 N001 0 SINE(0 5 100)
R4 N006 N005 10K
R5 0 N006 3564.839935
XU1 N015 N014 Vcc Vdd N005 TL081
R12 N014 0 10K
R11 N014 N005 10K
XU3 N001 N002 Vcc Vdd N003 TL081
XU4 N001 N006 Vcc Vdd N007 TL081
XU5 N012 N001 Vcc Vdd N009 TL081
XU6 N001 0 Vcc Vdd N013 TL081
V3 Vcc 0 7
V4 Vdd 0 -7
D1 N004 N003 D
D2 N008 N007 D
R8 0 N004 2.4K
R9 0 N008 2.4K
R10 0 N011 2.4K
D3 N011 N010 D
R1 0 N005 10K
R18 N026 N018 10K
R19 0 N026 7341.842397
XU10 N026 N001 Vcc Vdd N024 TL081
R22 0 N025 2.4K
R16 N023 N018 10K
R17 0 N023 3564.839935
XU11 N023 N001 Vcc Vdd N021 TL081
R15 0 N019 692.8999
R14 N019 N018 10K
XU12 N001 N019 Vcc Vdd N017 TL081
R20 0 N020 2.4K
D8 N025 N024 D
D9 N022 N021 D
R21 0 N022 2.4K
XU13 0 N001 Vcc Vdd N017 TL081
R13 0 N018 10K
XU2 0 N016 Vcc Vdd N018 TL081
R23 N015 N016 10K
R24 N016 N018 20K
D4 N020 N017 D
D5 N010 N009 D
D6 N010 N013 D
.model D D
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.dio
.tran 0.1
.lib C:\Program Files\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
