* C:\Users\User\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Komparator\Komparator system.asc
R11 0 N012 779.5791652
R3 N012 N005 10K
R1 N002 N005 10K
R9 0 N002 8872.197479
Vref N005 0 2.5
V§Signal N001 0 SINE(0 2.5 100)
R2 N006 N005 10K
R10 0 N006 4071.030562
XU3 N001 N002 Vcc Vdd N003 TL081
XU4 N001 N006 Vcc Vdd N007 TL081
XU5 N012 N001 Vcc Vdd N009 TL081
XU6 N001 0 Vcc Vdd N013 TL081
V1 Vcc 0 5.5
V2 Vdd 0 -5.5
D1 N004 N003 D
D2 N008 N007 D
R15 0 N004 1.65K
R16 0 N008 1.65K
R17 0 N011 1.65K
R4 0 N005 10K
R8 N026 N017 10K
R14 0 N026 8555.629778
XU10 N026 N001 Vcc Vdd N024 TL081
R20 0 N025 1.65K
R7 N023 N017 10K
R13 0 N023 3961.800514
XU11 N023 N001 Vcc Vdd N021 TL081
R12 0 N018 763.3357730
R6 N018 N017 10K
XU12 N001 N018 Vcc Vdd N019 TL081
R18 0 N020 1.65K
D6 N025 N024 D
D5 N022 N021 D
R19 0 N022 1.65K
XU13 0 N001 Vcc Vdd N015 TL081
R5 0 N017 10K
XU2 0 N014 Vcc Vdd N017 TL081
R23 N005 N014 10K
R24 N014 N017 10K
D7 N010 N009 D
D8 N010 N013 D
D9 N016 N015 D
D10 N016 N019 D
D3 N011 N010 D
D4 N020 N016 D
.model D D
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.dio
.tran 0.1
.lib C:\Program Files\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
